US08461328B2
A mixture of ((1R,3R)-3-allyloxycarbonylamino-cyclopentyl)-carbamic acid tert-butyl ester (890 mg, 3.13 mmol), 1,3-dimethylbarbituric acid (1.47 g, 9.39 mmol) and Pd(PPh3)4 (181 mg, 0.15 mmol) in DCM (30 mL) was stirred at ambient temperature for 90 minutes. The reaction mixture was concentrated under vacuum and purified by column chromatography on silica gel (gradient: 2M NH3 in methanol solution in DCM) to afford 350 mg (56%) ((1R,3R)-3-amino-cyclopentyl)-carbamic acid tert-butyl ester. LCMS (Method H, ESI): RT=0.36 min, m+H=200.9; 1H NMR (400 MHz, DMSO) δ: 6.77 (s, 1H), 3.90 (m, 1H), 3.31 (m, 1H), 1.87 (m, 2H), 1.54 (m, 2H), 1.37 (s, 10H), 1.18 (m, 1H).

reactant | ((1R,3R)-3-allyloxycarbonylamino-cyclopentyl)-carbamic acid tert-butyl ester | 3.13 mmol, 890 mg | C(C)(C)(C)OC(N[C@H]1C[C@@H](CC1)NC(=O)OCC=C)=O | C14H24N2O4
reactant | 1,3-dimethylbarbituric acid | 9.39 mmol, 1.47 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.15 mmol, 181 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ((1R,3R)-3-amino-cyclopentyl)-carbamic acid tert-butyl ester | 350 mg, 56% | C(C)(C)(C)OC(N[C@H]1C[C@@H](CC1)N)=O | C10H20N2O2
